US07094779B2
A mixture of phenacyl bromide (0.88 g), (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine (2 g), potassium iodide (catalytical), diisopropyl-ethylamine (0.77 mL), and acetonitrile (20 mL) was stirred at room temperature overnight. After cooling to room temperature the solvent was removed in vacuo, and the residue treated with dichloromethane and NaOH (2N). The layers were separated, the organic layer was dried (Na2SO4), and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, CH2Cl2/MeOH 97/3) to afford (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(2-phenyl-2-ethanon-1-yl)piperazine 2.16 g (85%). MH+ 574, Rf 0.44 (CH2Cl2/MeOH 97/3).

reactant | phenacyl bromide | 0.88 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine | 2 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | potassium iodide | [I-].[K+]
reactant | diisopropyl-ethylamine | 0.77 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(2-phenyl-2-ethanon-1-yl)piperazine | 2.16 g, 85% | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC(=O)C2=CC=CC=C2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C30H25F6N3O2
